US06265411B1
Saturated methanolic ammonia (20 ml) was added to a solution of 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (2.26 g, 5.5 mmol) in a mixture of ethanol (40 ml) and methylene chloride (15 ml). The mixture was stirred for 24 hours at ambient temperature, and further methanolic ammonia (20 ml) was added. The mixture was stirred for a further 24 hours at ambient temperature and the volatiles were removed by evaporation. The residue was triturated with ether, collected by filtration, dried under vacuum to give 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-3,4-dihydroquinazolin-4-one (975 mg, 78%).

reactant | ammonia | 20 ml | N | H3N
reactant | 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 5.5 mmol, 2.26 g | COC=1C=C2C(N(C=NC2=CC1OCCOCCOC)COC(C(C)(C)C)=O)=O | C20H28N2O7
reactant | ammonia | 20 ml | N | H3N
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-3,4-dihydroquinazolin-4-one | 975 mg, 78% | COC=1C=C2C(NC=NC2=CC1OCCOCCOC)=O | C14H18N2O5
